US06218397B1
3-{(4-methylbenzyl)-[6-methyl-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-amino}-propanol
A mixture of 4-chloro-3-methylsulfanyl-6-methyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidine (788 mg, 2 mmol) and 3-(p-methylbenzyl)amino-1-propanol (716 mg, 4 mmol) in 10 ml of acetonitrile was heated at reflux for 4 hours. The mixture was cooled, quenched with water and dilute hydrogen chloride and extracted with ethyl acetate. The organic layer was washed with aqueous sodium bicarbonate and brine, separated, dried and concentrated to give 953 mg of the title compound as an off-white glass form. The material was purified through silica gel column chromatography using chloroform as eluent to give the title compound as a white glass form. 1H NMR (CDCl3): 1.79 (m, 2H), 2.38 (s, 3H), 2.52 (s, 3H), 2.54 (s, 3H), 3.56 (t, 2H), 3.86 (t, 2H), 5.12 (s, 2H), 7.20 (s, 4H), 7.51 (s,2H) ppm. 13C NMR (CDCl3): 16.20, 21.13, 25.53, 29.64, 43.51, 53.88, 58.24, 127.78, 128.77, 129.33, 133.51, 136.18, 137.41, 142.93, 159.13, 164.89 ppm. IR(KBr): 3350, 2935, 1540 cm−1. Anal. calc. for C24H24N5OSCl3: C, 53.69; H, 4.50; N, 13.04; found: C, 53.33, H, 4.44, N, 12.84.

reactant | 4-chloro-3-methylsulfanyl-6-methyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidine | 2 mmol, 788 mg | ClC1=C2C(=NC(=N1)C)N(N=C2SC)C2=C(C=C(C=C2Cl)Cl)Cl | C13H8Cl4N4S
reactant | 3-(p-methylbenzyl)amino-1-propanol | 4 mmol, 716 mg | CC1=CC=C(CNCCCO)C=C1 | C11H17NO
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 3-{(4-methylbenzyl)-[6-methyl-3-methylsulfanyl-1-(2,4,6-trichlorophenyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl]-amino}-propanol | 953 mg | CC1=CC=C(CN(CCCO)C2=C3C(=NC(=N2)C)N(N=C3SC)C3=C(C=C(C=C3Cl)Cl)Cl)C=C1 | C24H24Cl3N5OS
